US07456165B2
13-Cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-6-(1,3-oxazol-2-yl)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxamide.
13-Cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-6-(1,3-oxazol-2-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide (45 mg, 0.08 mMol) was dissolved in 3.8 mL of THF and 0.9 mL of methanol added. 10% palladium on carbon (13 mg) was added and the reaction placed under 1 atm (balloon) of hydrogen atmosphere and stirred at room temperature for 18 hrs. The reaction was filtered through a plug of celite and the celite rinsed using dichloromethane. Removal of volatiles from the filtrate in vacuuo yield 47 mg of material which was purified by prep. HPLC under the following conditions: Shimadzu prep. HPLC using Discovery VP software; % A=10% methanol, 90% water, 0.1% TFA; % B=90% methanol, 10% water, 0.1% TFA; Initial % B=50; Final % B=100; Gradient=15 min; Runtime=20 min; Flow rate=25 ml/min; Column=Waters Sunfire 19 mm×100 mm; Peak collection=10.09 min to 10.88 min. Obtained 33.7 mg (75%) of the title compound as a colorless solid. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 1.20-1.31 (m, 1.1 H) 1.31-1.52 (m, 2.1 H) 1.66 (d, J=13.12 Hz, 1.1 H) 1.78 (d, J=9.16 Hz, 2.0 H) 1.93 (d, J=13.12 Hz, 1.1 H) 1.96-2.09 (m, 2.9 H) 2.82-2.98 (m, 2.2 H) 3.03-3.08 (m, 6.0 H) 3.11-3.19 (m, 1.0 H) 3.73-3.81 (m, 1.0 H) 3.84 (s, 1.3 H) 3.90 (s, 1.8 H) 3.97-4.02 (m, 0.9 H) 4.05 (dd, J=14.95, 5.80 Hz, 0.7 H) 4.75-4.85 (m, 0.4 H) 4.90 (d, J=14.95 Hz, 0.6 H) 6.84 (d, J=2.44 Hz, 0.4 H) 6.94 (dd, J=8.55, 2.44 Hz, 0.5 H) 6.97-7.01 (m, 1.2 H) 7.09-7.17 (m, 1.0 H) 7.32-7.49 (m, 2.0 H) 7.64 (s, 0.6 H) 7.69 (s, 0.4 H) 7.78-7.87 (m, 1.2 H) 7.90 (d, J=8.55 Hz, 0.4 H) 8.02 (s, 0.4 H) 8.42 (s, 0.5 H) 8.59 (s, 0.4H). HPLC analysis: Shimadzu Analytical HPLC using Discovery VP software: % A=10% methanol, 90% water, 0.1% trifluoroacetic acid; % B=90% methanol, 10% water, 0.1% trifluoroacetic acid; Initial % B=50; Final % B=100; Gradient=5 min; Runtime=6 min; Flow rate=5 ml/min; Wavelength=220 nm; Column=Phenomenex Luna 3.0 mm×50 mm S10. Retention Time=3.02 min, purity 99%; Flow injection Mass Spectrometry: MS m/z 563(MH+), m/z 561(M-H)−.

reactant | 13-Cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-6-(1,3-oxazol-2-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 0.08 mMol, 45 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C=2OC=CN2)C=C(C=C1)OC)C(=O)NS(=O)(=O)N(C)C | C30H32N4O5S
reactant | methanol | 0.9 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | THF | 3.8 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 13 mg | [Pd] | Pd
product | 13-Cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-6-(1,3-oxazol-2-yl)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxamide | 33.7 mg, 75% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)C=2OC=CN2)C=C(C=C1)OC)C(=O)NS(=O)(=O)N(C)C | C30H34N4O5S
